US07259266B2
Step 1. Preparation of ethyl 8-butyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A mixture of ethyl 8-but-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate prepared as in Example 21q, Step 1 (450 mg, 1.10 mmole) and 10% Pd/C (45 mg) in absolute ethanol was hydrogenated at 30 psi for 1.5 h. The catalyst was removed by filtration and the solvent was removed in vacuo to give 310 mg (68% yield) of the product as a yellow crystalline solid: EIHRMS m/z 412.1099 (M+, C18H18F6O4, Calc'd 412.1109).

reactant | ethyl 8-but-1-ynyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(#CCC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C18H14F6O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 45 mg | [Pd] | Pd
product | ethyl 8-butyl-6-(trifluoromethoxy)-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 310 mg, 68% yield | C(CCC)C=1C=C(C=C2C=C(C(OC12)C(F)(F)F)C(=O)OCC)OC(F)(F)F | C18H18F6O4
